US06774138B2
Reactants: 2-ethynylpyridine (6.0 mmol, 618 mg), tetrahydrothiopyran-4-one (6.0 mmol, 696 mg); yields 2-(3,6-dihydro-2H-thiopyran-4-ylethynyl)pyridine as a transparent oil (150 mg, 12% overall yield). 1H NMR (CDCl3, 300 MHz) δ 8.57 (m, 1H), 7.61 (m, 1H), 7.40 (m, 1H), 7.21 (m, 1H), 6.46 (m, 1H), 3.27 (m, 2H), 2.78 (m, 2H), 2.57 (m, 2H). MS (EI ionization) 201 (M+).

reactant | 2-ethynylpyridine | 6.0 mmol, 618 mg | C(#C)C1=NC=CC=C1 | C7H5N
reactant | tetrahydrothiopyran-4-one | 6.0 mmol, 696 mg | S1CCC(CC1)=O | C5H8OS
product | 2-(3,6-dihydro-2H-thiopyran-4-ylethynyl)pyridine | S1CCC(=CC1)C#CC1=NC=CC=C1 | C12H11NS
